US03960863
3-[2-(4-m-Chlorophenyl-1-piperazinyl)ethyl]-2,6-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one
A mixture of 2.4 g of 3-(2-chloroethyl)-2,6-dimethy-4H-pyrido[1,2-a]pyrimidin-4-one, 5.9 g of 1-(m-chlorophenyl)piperazine and 25 ml of toluene was refluxed with heating for 30 hours. The reaction mixture was then treated in the same manner as in Example 1, and the obtained crude crystals were recrystallized from isopropyl alcohol to give 1.4 g of the desired compound as pale yellow needles, m.p. 116.5° - 117.5°C.

reactant | 3-(2-chloroethyl)-2,6-dimethy-4H-pyrido[1,2-a]pyrimidin-4-one | 2.4 g | ClCCC1=C(N=C2N(C1=O)C(=CC=C2)C)C | C12H13ClN2O
reactant | 1-(m-chlorophenyl)piperazine | 5.9 g | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(4-m-Chlorophenyl-1-piperazinyl)ethyl]-2,6-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | 1.4 g | ClC=1C=C(C=CC1)N1CCN(CC1)CCC1=C(N=C2N(C1=O)C(=CC=C2)C)C | C22H25ClN4O
